US07473688B2
N-(1H-benzimidazol-2-ylmethyl)-13-cyclohexyl-6-[[4-(4-morpholinyl)-1-piperidinyl]carbonyl]-7H-indolo[2,1-a][2]benzazepine-10-carboxamide.
To a stirred solution of 13-cyclohexyl-6-[[4-(4-morpholinyl)-1-piperidinyl]carbonyl]-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid (134 mg, 0.24 mmol) in DMF (500 μL) were added 2-aminomethyl benzimidazole dihydrochloride hydrate (75 mg, 0.32 mmol), N,N-diisopropylethylamine (165 μL, 0.95 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (60 mg, 0.31 mmol), and 1-hydroxybenzotriazole (44 mg, 0.33 mmol). The suspension was allowed to stir at r.t. for 4 hr, at which point the solvent was removed under reduced pressure. CH2Cl2 (5 mL) was added, and the suspension filtered through Celite, and chromatographed on silica gel (gradient elution: 0%→10% MeOH in CH2Cl2) to afford the title compound as a pale yellow solid (24 mg, 14% yield). LC/MS (ESI) retention time: 1.57 min, m/z 683 (MH+); 1H NMR (400 MHz, CDCl3) δ 1.07-1.53 (m, 4 H) 1.63-1.78 (m, 3 H) 1.99 (s, 4 H) 2.25 (t, J=11.08 Hz, 1 H) 2.39 (s, 4 H) 2.59-2.87 (m, 3 H) 3.63 (s, 4 H) 4.14 (s, 1 H) 4.73-5.00 (m, 3 H) 6.78 (s, 1 H) 7.17 (ddd, J=9.63, 3.90, 3.59 Hz, 2 H) 7.34 (dd, J=7.05, 1.76 Hz, 1 H) 7.40-7.47 (m, 2 H) 7.50-7.58 (m, 4 H) 7.73 (d, J=8.31 Hz, 1 H) 8.16 (s, 1 H) 8.68 (s, 1 H).

reactant | 13-cyclohexyl-6-[[4-(4-morpholinyl)-1-piperidinyl]carbonyl]-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid | 0.24 mmol, 134 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C(=O)N2CCC(CC2)N2CCOCC2)C=CC=C1)C(=O)O | C34H39N3O4
reactant | 2-aminomethyl benzimidazole dihydrochloride hydrate | 0.32 mmol, 75 mg | O.Cl.Cl.NCC=1NC2=C(N1)C=CC=C2
reactant | N,N-diisopropylethylamine | 0.95 mmol, 165 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.31 mmol, 60 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.33 mmol, 44 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 500 μL | CN(C)C=O | C3H7NO
product | N-(1H-benzimidazol-2-ylmethyl)-13-cyclohexyl-6-[[4-(4-morpholinyl)-1-piperidinyl]carbonyl]-7H-indolo[2,1-a][2]benzazepine-10-carboxamide | 24 mg, 14% yield | N1C(=NC2=C1C=CC=C2)CNC(=O)C=2C=CC=1C(=C3N(CC(=CC4=C3C=CC=C4)C(=O)N4CCC(CC4)N4CCOCC4)C1C2)C2CCCCC2 | C42H46N6O3
